US03988339
8-Amino-7-chloroisoquinoline (0.005 mole), prepared as in Example 12, in 40% fluoboric acid (30 ml.) is cooled to -10° C. and diazotized with finely powdered sodium nitrite (3.5 g.). After 30 minutes, the reaction mixture is tested for nitrous acid with starch/iodide paper as described in Example 15. When a positive reaction is obtained, the reaction mixture is washed with small portions of ether and then agitated with a mixture of ethanol and ether (20 ml. each). The diazonium tetrafluoroborate is filtered, washed with ether, dried in vacuo and decomposed on an oil bath at approximately 150° C. The residue is partitioned between ether and 5% aqueous sodium hydroxide solution. The ether phase and extracts are combined, washed with water, dried over sodium sulfate and evaporated to yield 7-chloro-8-fluoroisoquinoline.

reactant | 8-Amino-7-chloroisoquinoline | 0.005 mole | NC=1C(=CC=C2C=CN=CC12)Cl | C9H7ClN2
reactant | sodium nitrite | 3.5 g | N(=O)[O-].[Na+]
reactant | nitrous acid | N(=O)O | HNO2
reactant | fluoboric acid | 30 ml | [H+].[B-](F)(F)(F)F
product | 7-chloro-8-fluoroisoquinoline | ClC1=CC=C2C=CN=CC2=C1F | C9H5ClFN
